US05420275
3-Amino-6-choro-4,5-diethyoxycarbonyl-2-methylpyridine
In 15 ml of ethanol was dissolved 1.2 g of 2-chloro-3,4-diethoxycarbonyl-6-methyl-5-nitropyridine, whereto 1.9 g (9 eq.) of reduced iron was added, followed by adding dropwise 7.1 ml of hydrochloric acid. The mixture was stirred at room temperature for 30 minutes. After the solvent was distilled off, the residue was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off to give an oily product.

reactant | 2-chloro-3,4-diethoxycarbonyl-6-methyl-5-nitropyridine | 1.2 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C | C12H13ClN2O6
reactant | hydrochloric acid | 7.1 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Amino-6-choro-4,5-diethyoxycarbonyl-2-methylpyridine | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C | C12H15ClN2O4
